US03959205
A 1,000 ml. glass polymerization vessel equipped with a reflux condenser, a dropping funnel, a thermometer and a stirrer was charged with 320 parts of vinyl acetate, 130 parts of methanol, 15 parts of 30% aqueous solution of sodium ethylenesulfonate and 0.2% by mole of azobisisobutylonitrile per the vinyl acetate. After carrying out the polymerization at a temperature of 60° to 65°C. for 8 hours, the residual vinyl acetate was removed by a conventional method to give vinyl acetate-sodium ethylenesulfonate copolymer containing 2.3% by mole of sodium ethylenesulfonate unit. Then the copolymer was hydrolyzed by a conventional method to give a modified PVA of which degree of hydrolysis in vinyl acetate unit was 99% by mole.

reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | sodium ethylenesulfonate | C=CS(=O)(=O)[O-].[Na+]
reactant | azobisisobutylonitrile | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | methanol | CO | CH4O
product | vinyl acetate sodium ethylenesulfonate | C(C)(=O)OC=C.C=CS(=O)(=O)[O-].[Na+] | InChI=1S/C4H6O2.C2H4O3S.Na/c1-3-6-4(2)5;1-2-6(3,4)5;/h3H,1H2,2H3;2H,1H2,(H,3,4,5);/q;;+1/p-1
